US04480118
Synthesis of 2-(1-hydroxy-1-methylethyl)-2-methoxycarbonylindane
To a dried THF solution of lithiumdiisopropylamide prepared from 107.3 ml (0.149 mole) of n-butyllithium and 15.81 g (0.156 mole) of diisopropylamine, was added dropwise at -50° C. a solution of 25.0 g (0.142 mole) of methyl indane-2-carboxylate in 50 ml of dried THF over a period of 10 minutes. To the resulting mixture, which had been stirred for 30 minutes at -50° C., was added dropwise over a period of 10 minutes a solution of 9.88 g (0.17 mole) of dried acetone in 10 ml of dried THF. After the addition, stirring was continued for further 10 minutes. The reaction mixture was poured into ice water and extracted with ether. The aqueous layer was extracted twice with ether. The ether layers were combined, washed successively with 3% aqueous hydrochloric acid solution, saturated aqueous hydrogen-carbonate solution, and saturated aqueous sodium chloride solution, then dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain the intended product as a oily substance.

reactant | lithiumdiisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyllithium | 0.149 mole, 107.3 ml | C(CCC)[Li]
reactant | diisopropylamine | 0.156 mole, 15.81 g | C(C)(C)NC(C)C | C6H15N
reactant | methyl indane-2-carboxylate | 0.142 mole, 25.0 g | C1C(CC2=CC=CC=C12)C(=O)OC | C11H12O2
reactant | acetone | 0.17 mole, 9.88 g | CC(=O)C | C3H6O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(1-hydroxy-1-methylethyl)-2-methoxycarbonylindane | OC(C)(C)C1(CC2=CC=CC=C2C1)C(=O)OC | C14H18O3
